US07148173B2
Preparation of lithium [1-(3-trimethylsiloxypropyl)indenide]
To 1.5 g (6.1 mmol) of [3-(3-trimethylsiloxypropyl)indene] in ether at −78° C, 2.44 ml (6.1 mmol) of a 2.5 M butyllithium solution in hexane was added. The immediate formation of a white solid was observed. The mixture was maintained under stirring for 2 h. Then, the solvent was removed under vacuum and the residue was washed twice with 25 ml of hexane to give a brown solid. (1.3 g, 5.2 mmol, yield 85%).

reactant | 3-(3-trimethylsiloxypropyl)indene | C[Si](OCCCC1=CCC2=CC=CC=C12)(C)C | C15H22OSi
reactant | butyllithium | 2.5 M | C(CCC)[Li]
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | lithium [1-(3-trimethylsiloxypropyl)indenide] | yield 85% | C[Si](OCCC[C-]1C=CC2=CC=CC=C12)(C)C.[Li+] | InChI=1S/C15H21OSi.Li/c1-17(2,3)16-12-6-8-14-11-10-13-7-4-5-9-15(13)14;/h4-5,7,9-11H,6,8,12H2,1-3H3;/q-1;+1
